US07728150B2
7-Bromo-3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indole
Utilizing 1-ethyl-5-fluoro-indan-1-ol and 7-bromoindole, the title compound is prepared as in example 1. 51 mg (16%). NMR (400 MHz, CDCl3): δ 0.82 (t, 3H), 2.12 (m, 1H), 2.21 (m, 1H), 2.30 (m, 1H), 2.59 (m, 1H), 2.97 (m, 2H), 6.82 (m, 2H), 6.90 (s, 1H), 6.99 (m, 2H), 7.12 (d, 1H), 7.28 (d, 1H), 8.08 (s, 1H, NH).

reactant | 1-ethyl-5-fluoro-indan-1-ol | C(C)C1(CCC2=CC(=CC=C12)F)O | C11H13FO
reactant | 7-bromoindole | BrC=1C=CC=C2C=CNC12 | C8H6BrN
product | 7-Bromo-3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indole | BrC=1C=CC=C2C(=CNC12)C1(CCC2=CC(=CC=C12)F)CC | C19H17BrFN
